US05412094
Ceohalexin:Methyl Paraben·H2O
Methyl paraben (375 mg, 2.5 mmol) in 150 ml of water was added to cephalexin monohydrate (2.4 g, 6.6 mmol) to result in a suspension. After 5 days at 5° C., the crystals were collected by filtration and washed with water to give 1.06 g (2.0 mmol) of cocrystals. mp 168°-169° C. Anal. calcd for C24H25N3O7S·H2O: C, 55.70; H, 5.26; N, 8.12. Found: C, 55.65; H, 5.28; N, 8.13. HPLC assay (calcd), found: (67.1), 67.1% cephalexin, (29.4), 28.7% methyl paraben. KF (Calcd) , found: (3.5) , 4.0% water.

reactant | Methyl paraben | 2.5 mmol, 375 mg | COC(=O)C1=CC=C(O)C=C1 | C8H8O3
reactant | cephalexin monohydrate | 6.6 mmol, 2.4 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)SC1)C(=O)O.O
reactant | cephalexin | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)SC1)C(=O)O | C16H17N3O4S
reactant | KF | [F-].[K+]
solvent | water | 150 ml | O | H2O
product | Methyl Paraben·H2O | COC(=O)C1=CC=C(O)C=C1.O | InChI=1S/C8H8O3.H2O/c1-11-8(10)6-2-4-7(9)5-3-6;/h2-5,9H,1H3;1H2
